US06881844B2
A mixture of 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (300 mg, 1.21 mmol), potassium carbonate (419 mg, 3.03 mmol), and (bromomethyl)-cyclobutane (0.21 mL, 1.82 mmol) in N,N-dimethylformamide (4 mL) in a sealed reaction vessel was heated at 60° C. for 16 h. At this time, the reaction was cooled to 25° C. and partitioned between water (30 mL) and ethyl acetate (30 mL). This mixture was treated with a 1N aqueous hydrochloric acid solution (6 mL), shaken, and separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a yellow solid. The resulting solid was treated with a 20% aqueous sodium hydroxide solution (7 mL) and was heated at 115° C. for 24 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (75 mL) and ethyl acetate (75 mL). This solution was treated with a 1N aqueous hydrochloric acid solution (30 mL), shaken, and separated. The organic layer was washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 6-chloro-1-cyclobutylmethyl-1H-indole-3-carboxylic acid (318 mg, 99%) as a yellow solid: mp 191-193° C.; EI-HRMS m/e calcd for C14H14ClNO2 (M+) 263.0713, found 263.0715.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 1.21 mmol, 300 mg | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | potassium carbonate | 3.03 mmol, 419 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)-cyclobutane | 1.82 mmol, 0.21 mL | BrCC1CCC1 | C5H9Br
reactant | sodium hydroxide | 7 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-chloro-1-cyclobutylmethyl-1H-indole-3-carboxylic acid | 318 mg, 99% | ClC1=CC=C2C(=CN(C2=C1)CC1CCC1)C(=O)O | C14H14ClNO2
